US06323235B1
Methyl (3-(2-(diphenylmethylthio)ethyl)benzofuran-7-yloxy)acetate
Diphenylmethanethiol (297 mg) was dissolved in DMF (2 ml) and potassium t-butoxide (166 mg) was added to the obtained solution, followed by stirring the resulting solution at room temperature for 5 minutes. To this reaction solution, a solution of 3-(2-bromoethyl)-7-tetrahydropyranyloxybenzofuran (335 mg) in DMF (2.5 ml) was added dropwise for 5 minutes, and the resulting solution was stirred at room temperature for 15 minutes. To this reaction solution, 1N hydrochloric acid (1.5 ml) was added and the solution was stirred at room temperature for 1 hour. The reaction mixture was poured into water layer (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the obtained residue was dissolved in DMF (4 ml). To this solution, potassium carbonate (205 mg) and methyl bromoacetate (0.19 ml) were added and the resulting mixture was stirred at room temperature for 3.5 hours. The reaction solution was poured into water layer (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated saline, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (255 mg, yield: 60%).

reactant | Diphenylmethanethiol | 297 mg | C1(=CC=CC=C1)C(S)C1=CC=CC=C1 | C13H12S
reactant | potassium t-butoxide | 166 mg | CC(C)([O-])C.[K+]
reactant | 3-(2-bromoethyl)-7-tetrahydropyranyloxybenzofuran | 335 mg | BrCCC1=COC2=C1C=CC=C2OC2OCCCC2 | C15H17BrO3
reactant | hydrochloric acid | 1N, 1.5 ml | Cl | ClH
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | Methyl (3-(2-(diphenylmethylthio)ethyl)benzofuran-7-yloxy)acetate | 255 mg, yield: 60% | C1(=CC=CC=C1)C(SCCC1=COC2=C1C=CC=C2OCC(=O)OC)C2=CC=CC=C2 | C26H24O4S
